US07585885B2
tert-Butyl-carbamic acid (3R,5R)-5-[(1R,2S)-2-acetylamino-3-(3,5-difluoro-phenyl)-1-hydroxy-propyl]-pyrrolidin-3-yl ester hydrochloride
Add 4M hydrogen chloride in dioxane (5 mL) to (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-tert-butylcarbamoyloxy-pyrrolidine-1-carboxylic acid tert-butyl ester (0.34 g, 0.616 mmol). Stir 4 hours and evaporate to give the title compound as a foam (0.291 g, 100%).

reactant | hydrogen chloride | 4M | Cl | ClH
reactant | (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-tert-butylcarbamoyloxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.616 mmol, 0.34 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OC(NC(C)(C)C)=O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C28H41F2N3O6
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl-carbamic acid (3R,5R)-5-[(1R,2S)-2-acetylamino-3-(3,5-difluoro-phenyl)-1-hydroxy-propyl]-pyrrolidin-3-yl ester hydrochloride | 0.291 g, 100% | Cl.C(C)(=O)N[C@H]([C@H](O)[C@H]1C[C@H](CN1)OC(NC(C)(C)C)=O)CC1=CC(=CC(=C1)F)F | InChI=1S/C20H29F2N3O4.ClH/c1-11(26)24-17(7-12-5-13(21)8-14(22)6-12)18(27)16-9-15(10-23-16)29-19(28)25-20(2,3)4;/h5-6,8,15-18,23,27H,7,9-10H2,1-4H3,(H,24,26)(H,25,28);1H/t15-,16-,17+,18-;/m1./s1
